* 6SN7 — medium-mu dual triode (audiophile favourite for driver / phase splitter).
*
* Norman Koren triode model. Typical-sample parameters; sample-to-sample
* spread on 6SN7 is significant — refit for production designs (T031).
*
* tube_type: triode
* Pins: P (plate), G (grid), K (cathode) — single section.
.SUBCKT 6SN7 P G K
* Koren parameters: MU=20 EX=1.4 KG1=1500 KP=80 KVB=300
E1 7 0 VALUE={V(P,K)/80*LN(1+EXP(80*(1/20+V(G,K)/SQRT(300+V(P,K)*V(P,K)))))}
G1 P K VALUE={(sgn(V(7))*pwr(abs(V(7)),1.4)+sgn(V(7))*pwr(abs(V(7)),1.4))/1500}
C1 G K 2.6p
C2 G P 4p
C3 P K 1.0p
RGI G K 1MEG
.ENDS 6SN7
